US06174895B1
1-(2-Fluoro-3-pyridinyl)-3-phenyl-1-propanone
A solution of 2.33 mL (1.99 grams, 17.8 mmol) of diisopropylamine in 30 mL of tetrahydrofuran was cooled to −78° C. and treated dropwise with 7.12 mL (17.8 mmol) of a solution of 2.5 M n-butyllithium in hexane. When the addition was complete, the mixture was stirred for 5 minutes at −78° C. and treated dropwise with 1.53 mL (1.36 grams, 17.8 mmol) of freshly distilled 2-fluoropyridine. After the addition was complete, the yellow mixture was stirred for 15 minutes at −78° and treated dropwise with a solution of 3.44 grams (17.8 mmol) of the compound of Preparation 4 in 2 mL of THF. The mixture was stirred for 4 hours at −78° C. and then quenched by the addition of 5 mL of saturated aqueous ammonium chloride solution. After warming to room temperature, the mixture was partitioned between 175 mL of ethyl acetate and 150 mL of saturated aqueous ammonium chloride solution. The separated organic later was washed with brine (100 mL), dried (MgSO4), and evaporated to 3.49 grams of an orange oil. Purification by flash chromatography using a 25% EtOAc-hexane eluant afforded 940 mg (23%) of the title compound as a yellow oil. 1H NMR (CDCl3) d 3.05 (2H, t, J=7 Hz), 3.32-3.64 (2H, m), 7.17-7.33 (6H, m), 8.29-8.38 (2H, m); APCI MS (m/e) 229 (M+).

reactant | diisopropylamine | 17.8 mmol, 2.33 mL, 1.99 grams | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | 2-fluoropyridine | FC1=NC=CC=C1 | C5H4FN
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | THF | 2 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-(2-Fluoro-3-pyridinyl)-3-phenyl-1-propanone | 940 mg, 23% | FC1=NC=CC=C1C(CCC1=CC=CC=C1)=O | C14H12FNO
